US04587256
28.8 g of 2-trimethylsilyl-1,3-dithiane were dissolved in 290 ml of peroxide-free tetrahydrofuran and the solution was treated dropwise at -60° C. with 93 ml of a 1.6M solution of n-butyl lithium in hexane. The mixture was left to warm to 0° C. within 3 hours and subsequently again cooled to -60° C. A solution of 24.87 g of 6-fluoro-4-chromanone in 150 ml of tetrahydrofuran was subsequently slowly added dropwise and the mixture was left to warm slowly from -60° C. to room temperature while stirring overnight. The mixture was subsequently poured into 2.5 l of water and extracted with four portions of ethyl acetate. The organic extracts were washed with saturated sodium chloride solution and dried with sodium sulfate The concentrated extract was decolorized with active carbon in a mixture of ether and low-boiling petroleum ether (1:1) and crystallized from the same mixture in the cold. After two recrystallizations, the combined mother liquors were chromatographed on a silica gel 60 column [hexane/ethyl acetate (9:1)]. The product-containing fractions were concentrated and the residue was recrystallized. There was obtained 4-m-dithian-2-ylidene-6-fluoro-2,3-dihydro-4H-1-benzopyran of melting point 47°-49° C.

reactant | 2-trimethylsilyl-1,3-dithiane | 28.8 g | C[Si](C1SCCCS1)(C)C | C7H16S2Si
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 6-fluoro-4-chromanone | 24.87 g | FC=1C=C2C(CCOC2=CC1)=O | C9H7FO2
reactant | water | 2.5 l | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-m-dithian-2-ylidene-6-fluoro-2,3-dihydro-4H-1-benzopyran | S1C(SCCC1)=C1CCOC2=C1C=C(C=C2)F | C13H13FOS2
